US07582652B2
5-[2-tert-Butyl-4-(4-fluorophenyl)oxazol-5-yl]-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-ylamine
Bubble with nitrogen a suspension of 2-tert-butyl-4-(4-fluorophenyl)oxazole (0.145 g, 0.66 mmol), 5-bromo-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-ylamine (0.355 g, 1.32 mmol), cesium carbonate (6.06 g, 18.6 mmol), palladium (II) acetate (0.201 g, 10%) and triphenylphosphine (0.14 g, 0.07 mmol) in DMF (1.5 mL). Heat the reaction at 100° C. overnight, cool to RT and partition between EtOAc and saturated aqueous NaCl. Wash the organic layer with saturated aqueous NaCl. Dry with Na2SO4, filter, concentrate, and purify (silica gel chromatography, eluting with 2% of 2M ammonia/MeOH in CH2Cl2 to give the title compound (0.07 g, 34%).

reactant | 2-tert-butyl-4-(4-fluorophenyl)oxazole | 0.66 mmol, 0.145 g | C(C)(C)(C)C=1OC=C(N1)C1=CC=C(C=C1)F | C13H14FNO
reactant | 5-bromo-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-ylamine | 1.32 mmol, 0.355 g | BrC1=CC=C2C(=N1)N(C(=N2)N)CC(C)C | C10H13BrN4
reactant | cesium carbonate | 18.6 mmol, 6.06 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | triphenylphosphine | 0.07 mmol, 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 0.201 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-[2-tert-Butyl-4-(4-fluorophenyl)oxazol-5-yl]-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-ylamine | 0.07 g, 34% | C(C)(C)(C)C=1OC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C2C(=N1)N(C(=N2)N)CC(C)C | C23H26FN5O
